US07504403B2
[2-(3-Cyano-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester:
To a sealed pressure tube was added [2-(3-bromo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (1.23 g, 3.9 mmol), sodium cyanide (250 mg, 5.1 mmol), potassium iodide (130 mg, 0.8 mmol), N-N′-dimethylethylenediamine (0.41 mL, 3.9 mmol), and toluene (6 mL). This suspension was then sparged with nitrogen prior to adding copper iodide (150 mg, 0.8 mmol). Reaction mixture heated to 130° C. for 16 h while stirring. Reaction partitioned between ethyl acetate and 30% aqueous ammonia. Organic washed with saturated ammonium chloride, then dried over magnesium sulfate. Reaction reduced to an oil under vacuum and isolated as a white solid after purification on silica. M+1=261.

reactant | [2-(3-bromo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 3.9 mmol, 1.23 g | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)Br)C)=O | C14H20BrNO2
reactant | sodium cyanide | 5.1 mmol, 250 mg | [C-]#N.[Na+]
reactant | potassium iodide | 0.8 mmol, 130 mg | [I-].[K+]
catalyst | copper iodide | 0.8 mmol, 150 mg | [Cu](I)I
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(3-Cyano-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)C#N)C)=O | C15H20N2O2
